US09079831B2
In autoclave at room temperature 4,4′-dinitrodiphenylsulfone (0.0649 mol, 20.0 g), 5% palladium on 50% wet carbon (1.4 g), 70% methanesulfonic acid in water (0.130 mol, 17.8 g), water (10 ml) and methanol (70 ml) are loaded. The mixture is left to react under hydrogen pressure (4-5 atm) at a temperature of 55-60° C. for about 8 hours. The mixture is filtered on a Perlite layer washing with methanol (10 ml for 2 times), subsequently with water (80 ml). The solution is concentrated under reduced volume to remove the organic phase. The aqueous phase is extracted with ethyl acetate (50 ml for 3 times) and the organic washings are discarded. Discolouring carbon (1.0 g) is added under vigorous stirring and after 15-20 minutes the mixture is filtered on a Perlite layer. To the aqueous solution heated at about 50° C. a aqueous solution of 30% sodium hydroxide is slowly added to reach a pH higher than 10. After about 30 minutes the mixture is cooled to 0-5° C. and then filtered, washing the solid with water cooled at 0-5° C. (20 ml for three times). After oven-drying at 50° C., 11.2 g of crude Dapsone are obtained that are then crystallized from a mixture of isopropanol (35 ml) and water (25 ml) to obtain 10.2 g of dry Dapsone, having a chemical purity evaluated by HPLC equal to about 98.5%.

reactant | 4,4′-dinitrodiphenylsulfone | 0.0649 mol, 20.0 g | C1=CC(=CC=C1[N+](=O)[O-])S(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-] | C12H8N2O6S
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | water | 10 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
solvent | water | 0.130 mol, 17.8 g | O | H2O
product | Dapsone | 11.2 g | C1=CC(=CC=C1N)S(=O)(=O)C=2C=CC(=CC2)N | C12H12N2O2S
